US04420479
Lithium methyl sulfinyl carbanion was prepared by reacting 37 ml. of a 1.6 M solution of n-butyl lithium in tetrahydrofuran with 5 ml. of dimethyl sulfoxide dissolved in 70 ml. of tetrahydrofuran. After stirring the reaction mixture under nitrogen for thirty minutes at 0°-5° C., a mixture of 4.0 g. of 1-isopropylsulfonyl-2-amino-6-benzoylbenzimidazole in 60 ml. of tetrahydrofuran was added in one portion. The reaction mixture was stirred for one hour at 0° C., and then was warmed to room temperature and stirred for an additional twelve hours at 24° C., followed by thirty-six hours of stirring at 50° C. The reaction mixture next was diluted with 100 ml. of water, and the organic solvent was removed by evaporation under reduced pressure. The aqueous mixture was acidified to pH 2 with 1 N hydrochloric acid, and then filtered. The filtrate was neutralized with sodium carbonate, and the product was extracted therefrom into ethyl acetate. The extracts were combined and the solvent was removed by evaporation under reduced pressure to provide 1-isopropylsulfonyl-2-amino-6-(α-hydroxy-α-methylsulfinylmethylbenzyl)benzimidazole.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | dimethyl sulfoxide | CS(=O)C | C2H6OS
reactant | 1-isopropylsulfonyl-2-amino-6-benzoylbenzimidazole | C(C)(C)S(=O)(=O)N1C(=NC2=C1C=C(C=C2)C(C2=CC=CC=C2)=O)N | C17H17N3O3S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-isopropylsulfonyl-2-amino-6-(α-hydroxy-α-methylsulfinylmethylbenzyl)benzimidazole | C(C)(C)S(=O)(=O)N1C(=NC2=C1C=C(C=C2)C(C2=CC=CC=C2)(CS(=O)C)O)N | C19H23N3O4S2
